US07217724B2
(2R)-N-((1R)-2-(7-(Benzyloxy)-1H-indol-3-yl)-1-methylethyl)-2-hydroxy-2-pyridin-3-ylacetamide
To a solution of (1R)-2-(7-(benzyloxy)-1H-indol-3-yl)-1-methyl-ethylamine (5.0 g, 17.8 mmol) in tetrahydrofuran (100 mL) are added successively with stirring (R)-2-hydroxy-2-(3-pyridyl)acetic acid.sulfate (4.68 g, 11.6 mmol), triethylamine (3.22 mL, 23.1 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide.hydrochloride (4.78 g, 24.9 mmol), and 1-hydroxybenzotriazole (3.36 g, 24.9 mmol) under ice-cooling, and the mixture is stirred at room temperature for 2.5 hours. The reaction mixture is diluted with a mixture of a saturated aqueous sodium hydrogen carbonate solution and water (1:1, 100 mL), and extracted with ethyl acetate (2×100 mL). The organic layers are combined and washed with a mixture of a saturated brine and water (1:1, 100 mL), dried over magnesium sulfate, and separated by filtration. The filtrate is concentrated under reduced pressure, and the obtained pale brown solid is dispersed into chloroform (80 mL). The insoluble white solid is collected by filtration, washed with chloroform (40 mL), and dried under reduced pressure to give the title compound (6.38 g, yield: 86%).

reactant | (1R)-2-(7-(benzyloxy)-1H-indol-3-yl)-1-methyl-ethylamine | 17.8 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)C[C@@H](C)N | C18H20N2O
reactant | (R)-2-hydroxy-2-(3-pyridyl)acetic acid | O[C@@H](C(=O)O)C=1C=NC=CC1 | C7H7NO3
reactant | sulfate | 11.6 mmol, 4.68 g | S(=O)(=O)([O-])[O-]
reactant | triethylamine | 23.1 mmol, 3.22 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide.hydrochloride | 24.9 mmol, 4.78 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 24.9 mmol, 3.36 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 100 mL | O | H2O
product | (2R)-N-((1R)-2-(7-(Benzyloxy)-1H-indol-3-yl)-1-methylethyl)-2-hydroxy-2-pyridin-3-ylacetamide | 6.38 g, yield: 86% | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)C[C@@H](C)NC([C@@H](C=1C=NC=CC1)O)=O | C25H25N3O3
